US07612075B2
(3S, 5S)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-acryloyl]-3,5-dimethyl-piperazin-2-one
To a solution of (3S,5S)-1-(4-amino-quinazolin-7-ylmethyl)-3,5-dimethyl-piperazin-2-one (42 mg, 0.147 mmol), major epimer from EXAMPLE 88, Part D, in 2 mL of DMF is added TBTU (52 mg, 0.162 mmol), triethylamine (0.02 mL, 0.162 mmol) and 3-(5-chloro-thiophen-2-yl)-acrylic acid (28 mg, 0.15 mmol), EXAMPLE 25. After stirring for two hours, the reaction mixture is directly purified by reverse phase HPLC (10-70% ACN/H2O). The product (35.5 mg, 36%) is isolated as a yellow solid with a melting point of 116-120° C. C22H22ClN5O2S: MS m/z: 456, 458. Anal. calcd. for C22H22ClN5O2S.C2HF3O2: C, 50.57; H, 4.07; N, 12.29. Found: C, 46.48; H, 3.64; N, 11.04.

reactant | (3S,5S)-1-(4-amino-quinazolin-7-ylmethyl)-3,5-dimethyl-piperazin-2-one | 0.147 mmol, 42 mg | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N[C@H](C1)C)C)=O | C15H19N5O
reactant | TBTU | 0.162 mmol, 52 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.162 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(5-chloro-thiophen-2-yl)-acrylic acid | 0.15 mmol, 28 mg | ClC1=CC=C(S1)C=CC(=O)O | C7H5ClO2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3S, 5S)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-acryloyl]-3,5-dimethyl-piperazin-2-one | 35.5 mg, 36% | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N([C@H](C1)C)C(C=CC=1SC(=CC1)Cl)=O)C)=O | C22H22ClN5O2S
